US05506234
100 mg of 6-(4-chlorophenylethinyl)-4-methoxymethyl-β-carboline-3-carboxylic acid isopropyl ester is hydrogenated for 1 hour in 20 ml of ethanol with 1 spatula-tip full of Raney nickel (decanted twice with ethanol) at room temperature and hydrogen standard pressure. After filtering off from the catalyst on silica gel it is concentrated by evaporation and the residue is recrystallized from ethyl acetate/hexane. It yields 59 mg (59% of theory) of 6-(4-chlorophenylethyl)-4-methoxymethyl-β-carboline-3-carboxylic acid isopropyl ester, melting point 182°-184° C.

reactant | 6-(4-chlorophenylethinyl)-4-methoxymethyl-β-carboline-3-carboxylic acid isopropyl ester | 100 mg | C(C)(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1COC)C#CC1=CC=C(C=C1)Cl | C25H21ClN2O3
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | Raney nickel | [Ni] | Ni
product | 6-(4-chlorophenylethyl)-4-methoxymethyl-β-carboline-3-carboxylic acid isopropyl ester | 59 mg, 59% | C(C)(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1COC)CCC1=CC=C(C=C1)Cl | C25H25ClN2O3
